US04882370
3,3'-diaminodiphenyl sulfone;
4,4'-diaminodiphdeny sulfide; 4,4'-diaminodiphenyl ketone; 4,4'-diaminodiphenyl ether; 4,4'-diaminodiphenyl methane; 1,3-propanediol-bis(4-aminobenzoate); 1,4-bis[α-(4-aminophenyl)-α-methylethyl]benzene (EPON HPT™-1061, Shell Chemical Co.); 1,4-bis[α-(4-amino-3,5-dimethylphenyl)-α-methylethyl]benzene (EPON HPT™-1062, Shell Chemical Co.); bis(4-amino-3-methylphenyl)sulfone; 1,1'-biphenyl-3,3'-dimethyl-4,4'-diamine; 1,1'-biphenyl-3,3'-dimethoxy-4,4'-diamine; and diaminonapthalenes.

reactant | 4,4'-diaminodiphenyl ether | C1=CC(=CC=C1N)OC=2C=CC(=CC2)N | C12H12N2O
reactant | 4,4'-diaminodiphenyl methane | C1=CC(=CC=C1CC2=CC=C(C=C2)N)N | C13H14N2
reactant | 1,4-bis[α-(4-aminophenyl)-α-methylethyl]benzene | NC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)C(C)(C1=CC=C(C=C1)N)C | C24H28N2
reactant | 1,4-bis[α-(4-amino-3,5-dimethylphenyl)-α-methylethyl]benzene | NC1=C(C=C(C=C1C)C(C)(C)C1=CC=C(C=C1)C(C)(C1=CC(=C(C(=C1)C)N)C)C)C | C28H36N2
reactant | bis(4-amino-3-methylphenyl)sulfone | NC1=C(C=C(C=C1)S(=O)(=O)C1=CC(=C(C=C1)N)C)C | C14H16N2O2S
product | 3,3'-diaminodiphenyl sulfone | C1=CC(=CC(=C1)S(=O)(=O)C2=CC=CC(=C2)N)N | C12H12N2O2S
